US09023858B2
H) 3-[4-(2,2,2-trifluoroethoxy)phenyl]-2-(3,3,3-trifluoropropyl)-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
A solution of 6-amino-3-(4-(2,2,2-trifluoroethoxy)phenyl)-2-(3,3,3-trifluoropropyl)pyrimidin-4(3H)-one (1.0 g) in N,N-dimethylacetamide (30 mL) was heated to 60° C., acryloyl chloride (0.85 mL) was added thereto, and the mixture was stirred for 10 min. To the reaction mixture was added water under ice-cooling, and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), diolpropylsilane-bonded silica gel column chromatography (ethyl acetate/hexane) and then silica gel column chromatography (ethyl acetate/hexane). The obtained solid was recrystallized from ethyl acetate-hexane to give the title compound (0.72 g) as a solid. The solid (487 mg) was recrystallized from ethyl acetate to give the title compound (300 mg) as a solid.

reactant | 6-amino-3-(4-(2,2,2-trifluoroethoxy)phenyl)-2-(3,3,3-trifluoropropyl)pyrimidin-4(3H)-one | 1.0 g | NC1=CC(N(C(=N1)CCC(F)(F)F)C1=CC=C(C=C1)OCC(F)(F)F)=O | C15H13F6N3O2
reactant | acryloyl chloride | 0.85 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 30 mL | CN(C(C)=O)C | C4H9NO
product | 3-[4-(2,2,2-trifluoroethoxy)phenyl]-2-(3,3,3-trifluoropropyl)-5,6-dihydropyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 0.72 g | FC(COC1=CC=C(C=C1)N1C(=NC2=C(C1=O)CCC(N2)=O)CCC(F)(F)F)(F)F | C18H15F6N3O3
